US07652051B2
Synthesis of 4-{4-[3-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)-[1,2,4]triazin-5-yl)-phenoxy}-N-methylpyridine-2-carboxamide
108.6 mg (0.337 mmol, 1.0 equivalent) of 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide can be dissolved in 2 mL of anhydrous pyridine with heating to about 100° C. 0.405 mmol (1.2 equivalent) of 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride can be added. The reaction mixture can be allowed to stir at ambient temperature for 1-2 hours. The product can be isolated by a number of methods known to one skilled in the art, such as precipitation or by extraction with a number of solvents, such as ethyl acetate, methylene chloride or diethyl ether or by silica gel column chromatography, or by reverse-phase preparative HPLC.

reactant | 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide | 0.337 mmol, 108.6 mg, 1.0 equivalent | NC=1N=NC=C(N1)C1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1 | C16H14N6O2
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.405 mmol, 1.2 equivalent | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4-{4-[3-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)-[1,2,4]triazin-5-yl)-phenoxy}-N-methylpyridine-2-carboxamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1N=NC=C(N1)C1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)C(F)(F)F | C23H16ClF3N6O4S
